US05962457
A mixture of o-toluidine (5.0 mL, 47 mmol), methylene chloride (15 mL), cyanoacetic acid (8.0 g, 94 mmol), 1-hydroxybenzotriazole (12.7 g, 94 mmol), 4-dimethylaminopyridine (5 crystals, catalytic amount), and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (16.2 g, 94 mmol) was stirred at ambient temperature overnight. The reaction was concentrated and the residual pale yellow oil was partitioned between ethyl acetate and water. The phases were separated and the organic layer was washed with saturated sodium bicarbonate and brine, dried over sodium sulfate, and concentrated to 5.2 g of off-white solid. This solid was recrystallized from methylene chloride in two crops to afford cyanoacetic acid o-toluamide (4.71 g, 57%) as white crystals.

reactant | o-toluidine | 47 mmol, 5.0 mL | NC=1C(=CC=CC1)C | C7H9N
reactant | cyanoacetic acid | 94 mmol, 8.0 g | C(#N)CC(=O)O | C3H3NO2
reactant | 1-hydroxybenzotriazole | 94 mmol, 12.7 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 94 mmol, 16.2 g | Cl.CN(CCCN=C=NCC)C
catalyst | 4-dimethylaminopyridine | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methylene chloride | 15 mL | C(Cl)Cl | CH2Cl2
product | cyanoacetic acid o-toluamide | 4.71 g, 57% | C=1(C(=CC=CC1)C(=O)N)C.C(#N)CC(=O)O | InChI=1S/C8H9NO.C3H3NO2/c1-6-4-2-3-5-7(6)8(9)10;4-2-1-3(5)6/h2-5H,1H3,(H2,9,10);1H2,(H,5,6)
